US05300687
Diethyl 4-trifluoromethylbenzylphosphonate
A mixture of 4-trifluoromethylbenzyl bromide (5.68 g, 23.8 mmol) and triethyl phosphite(10.4 g, 63 mmol) was heated at reflux under nitrogen for 5 hours. The excess triethyl phosphite was removed by distillation and the crude product was purified by distillation at 95° C. (0.07 mm Hg.) to give 6.27 g, 89% of the product as an oil. D.C.I.M.S.[MH+,297].

reactant | 4-trifluoromethylbenzyl bromide | 23.8 mmol, 5.68 g | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | triethyl phosphite | 63 mmol, 10.4 g | P(OCC)(OCC)OCC | C6H15O3P
product | Diethyl 4-trifluoromethylbenzylphosphonate | 6.27 g, 89% | FC(C1=CC=C(CP(OCC)(OCC)=O)C=C1)(F)F | C12H16F3O3P
